US05225402
1-{1-[4-(2-Cyclohexenyloxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (200 mg) is dissolved in ethanol (5 ml) and thereto is added 10% palladium-carbon (50 mg). The mixture is stirred at room temperature under atmospheric pressure under hydrogen atmosphere. After the completion of the reaction, the catalyst is removed by filtration. The resulting filtrate is concentrated and purified by silica gel column chromatography (solvent: n-hexane:ethyl acetate=1:1) to give 1-[1-(4-cyclohexyloxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (174 mg).

reactant | 1-{1-[4-(2-Cyclohexenyloxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 200 mg | C1(C=CCCC1)OC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C27H30N2O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 50 mg | [C].[Pd]
product | 1-[1-(4-cyclohexyloxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 174 mg | C1(CCCCC1)OC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C27H32N2O3
